US09056874B2
a) (±)-2-(1-Methoxy-1-(5-methoxy-7-methyl-1H-indol-4-yl)ethyl)-1H-benzo[d]imidazole-5-carbonitrile
To a mixture of (±)-tert-butyl 4-(1-(5-cyano-1-((2-(trimethylsilyl)ethoxy)methyl)-1H-benzo[d]imidazol-2-yl)-1-methoxy ethyl)-5-methoxy-7-methyl-1H-indole-1-carboxylate and (±)-tert-butyl 4-(1-(6-cyano-1-((2-(trimethylsilyl)ethoxy)methyl)-1H-benzo[d]imidazol-2-yl)-1-methoxyethyl)-5-methoxy-7-methyl-1H-indole-1-carboxylate (0.494 g, 0.836 mmol) in tetrahydrofuran (8.36 mL) was added TBAF (1M in THF, 8.36 mL, 8.36 mmol) and ethylenediamine (0.28 mL, 4.18 mmol). The reaction was heated at 65° C. for 26 hours. The reaction was cooled to room temperature and treated with 10 mL of a saturated solution of aq. ammonium chloride and then diluted with ethyl acetate. The layers were separated and the organic layer was washed with water (3×100 mL), dried over magnesium sulfate and concentrated. The resulting residue was dissolved in MeOH and cesium carbonate (1.38 g, 4.25 mmol) was added and the reaction was heated at 60° C. for 1.5 hours. The reaction was cooled to room temperature, diluted with EtOAc and then washed with a saturated solution of aq. ammonium chloride. The organic extract was dried over magnesium sulfate, filtered and concentrated. The resulting residues was purified by flash chromatography (0-10% MeOH in DCM) to provide the title compound. 1H NMR (400 MHz, DMSO-d6 with about 5 μL TFA) δ ppm 11.14 (br. s., 1H) 8.23 (s, 1H) 7.66-8.01 (m, 2H) 7.39 (t, J=2.91 Hz, 1H) 6.48-6.88 (m, 2H) 3.28 (s, 3H) 3.17 (s, 3H) 2.48 (s, 3H) 2.13 (s, 3H). HRMS calcd. for C21H20N4O2 (M+H)+ 361.1659. found 361.1675.

reactant | (±)-tert-butyl 4-(1-(5-cyano-1-((2-(trimethylsilyl)ethoxy)methyl)-1H-benzo[d]imidazol-2-yl)-1-methoxy ethyl)-5-methoxy-7-methyl-1H-indole-1-carboxylate | C(#N)C1=CC2=C(N(C(=N2)C(C)(OC)C2=C3C=CN(C3=C(C=C2OC)C)C(=O)OC(C)(C)C)COCC[Si](C)(C)C)C=C1 | C32H42N4O5Si
reactant | (±)-tert-butyl 4-(1-(6-cyano-1-((2-(trimethylsilyl)ethoxy)methyl)-1H-benzo[d]imidazol-2-yl)-1-methoxyethyl)-5-methoxy-7-methyl-1H-indole-1-carboxylate | 0.836 mmol, 0.494 g | C(#N)C=1C=CC2=C(N(C(=N2)C(C)(OC)C2=C3C=CN(C3=C(C=C2OC)C)C(=O)OC(C)(C)C)COCC[Si](C)(C)C)C1 | C32H42N4O5Si
reactant | TBAF | 8.36 mmol, 1M, 8.36 mL | CCCC[N+](CCCC)(CCCC)CCCC.[F-]
reactant | ethylenediamine | 4.18 mmol, 0.28 mL | C(CN)N | C2H8N2
reactant | ammonium chloride | [Cl-].[NH4+]
reactant | cesium carbonate | 4.25 mmol, 1.38 g | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | tetrahydrofuran | 8.36 mL | O1CCCC1 | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | (±)-2-(1-Methoxy-1-(5-methoxy-7-methyl-1H-indol-4-yl)ethyl)-1H-benzo[d]imidazole-5-carbonitrile | COC(C)(C1=C2C=CNC2=C(C=C1OC)C)C1=NC2=C(N1)C=CC(=C2)C#N | C21H20N4O2
